US05914328
68a. 3-((1-methyl-2-(S)-azetidinyl)methoxy)-5-bromopyridine
A 480 mg sample of the free base of 3-(2-(S)-azetidinylmethoxy)-5-bromopyridine, from Example 67 above, was dissolved in 4 mL of acetic acid treated with 1 mL of 37% HCHO and 500 mg of NaBH3CN at 0° C. for 4 hr. The solvents were removed under reduced pressure The residue was basified with NaHCO3 solution. The mixture was extracted with methylene chloride, the extract was dried over MgSO4, and the solvent was removed. The residue was purified by chromatography on silica gel, eluting with 200:1 and 100: 1 chloroform:methanol to give 68 mg of the title compound. MS (DCI/NH3) m/e: 257/259 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.28 (d, J=1.9 Hz, 1H), 8.26 (d, J=2.6 Hz, 1H), 7.38 (dd, J=1.9, 2.6 Hz, 1H), 4.02 (d, J=6.3 Hz, 2H), 3.51-3.44 (m, 1H), 3.43-3.37 (m, 1H), 2.93-2.84 (m, 1H), 2.41 (s, 3H), 2.13-2.03 (m, 2H).

reactant | 3-(2-(S)-azetidinylmethoxy)-5-bromopyridine | N1[C@@H](CC1)COC=1C=NC=C(C1)Br | C9H11BrN2O
reactant | HCHO | 1 mL | C=O | CH2O
reactant | NaBH3CN | 500 mg | [BH3-]C#N.[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-((1-methyl-2-(S)-azetidinyl)methoxy)-5-bromopyridine | 68 mg | CN1[C@@H](CC1)COC=1C=NC=C(C1)Br | C10H13BrN2O
